US05194617
10.8 ml of an n-hexane solution of 10.8 mmols of diisobutylaluminium hydride was added to a solution of 1.31 g (11.9 mmols) of 1-octyne in 20 ml of n-hexane in an atmosphere of nitrogen and stirred at 50° C. for 2 hours. The reaction solution was cooled to -78° C., to which a solution of 2.22 ml (9.00 mmols) of 2-formyl-3-methyl-4-acetoxy-6-fluoroquinoline in 30 ml of tetrahydrofuran was added. The reaction temperature was raised from -78° C. to room temperature and the reaction solution was stirred at room temperature for 30 minutes. The reaction solution was added to 100 ml of water and filtered through Celite, followed by extraction with ethyl acetate, washing with water and a saturated sodium chloride aqueous solution, and drying with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography (solvent: n-hexane ethyl acetate=8:1) to obtain 1.86 g (yield 58 %) of 2-(trans-1-hydroxy-2-nonenyl)-3-methyl-4-acetoxy-6-fluoroquinoline.

reactant | diisobutylaluminium hydride | 10.8 mmols | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1-octyne | 11.9 mmols, 1.31 g | C#CCCCCCC | C8H14
reactant | 2-formyl-3-methyl-4-acetoxy-6-fluoroquinoline | 9.00 mmols, 2.22 ml | C(=O)C1=NC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C13H10FNO3
reactant | water | 100 ml | O | H2O
solvent | n-hexane | 20 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 10.8 ml | CCCCCC | C6H14
product | 2-(trans-1-hydroxy-2-nonenyl)-3-methyl-4-acetoxy-6-fluoroquinoline | 1.86 g, yield 58 % | OC(\C=C\CCCCCC)C1=NC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C21H26FNO3
